Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Methadone / Abilify
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx of htn, anxiety, OA, prior syncope presenting
with recurrent syncope. 

Pt describes walking to the dentist when she abruptly lost
consciousness and fell. She describes walking on the sidewalk,
was about 50 feet from the dentist office, after approx. 10 min
walk from her house. She denies preceding chest pain, abdominal
pain, lightheadedness, N/V. She recalls looking in both
directions, turning her neck. She denies headache preceding the
fall. She woke up within 2 minutes, and cannot recall any 
details
immediately prior to the fall. She denies tongue biting, loss of
bowel or bladder function, confusion after the episode. She
believes that her head hit her pocketbook. She was helped to
standing by passers-by. She proceeded to her dentist appointment
(and did not mention her fall), then stopped at the nearby drug
store to have her BP checked; her SBP was apparently found to be
202. She continued her walk home, then notified her daughter by
telephone, who brought her to ___ urgent care.

With respect to the prior episodes, pt has difficulty recalling
details. Per prior notes, the first episode of syncope occurred
in ___, when, according to Dr. ___ note dated
___, "she was out on her usual morning walk and after 
having
walked for approximately 40 minutes, she was still walking on 
the
sidewalk and suddenly found herself waking up on the ground with
broken teeth.  She does not remember how she fainted and whether
she experienced any symptoms prior to fainting or not.  She has
not had any recurrent episodes of presyncope or syncope, and
never had any prior episodes of syncope in her life.  She
underwent Holter monitoring on ___ and over the course
of 24 hours, there were only occasional APBs and VPBs without 
any
significant arrhythmia and without any pauses either.  During
that period of time, her sinus rate varied from 52 to 97 beats
per minute."

Upon arrival to ___, pt endorsed pain in her neck and with
movement of her LUE. She describes headache x 3 days with
intermittent facial flushing. She did take her lisinopril prior
to going to the dentist.

In the ___ ED:
VS 97.6, 68, 213/73->220/774--->142/61-->151/73, 97% RA
Labs notable for WBC 7.9, Hb 191
BUN 16, Cr 0.8
Mg 1.7
TnT<0.01
UA negative (small blood)
EKG unrevealing
CT head/neck and humerus xray unremarkable

Received:
Captopril 6.25 mg PO x1, Tylenol ___ mg PO x1, and ibuprofen 400
mg PO x1

On arrival to the floor, she describes a frontal headache, ___,
without change in vision. She denies chest pain, SOB, abdominal
pain. She confirms above history, although reports very mild
headache in the days prior to fall. She confirms facial flushing
at night, relieved by splashing cold water on her face.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
Anxiety
Hypertension
Gastritis
s/p CCY
s/p TAH BSO
s/p appendectomy
s/p LOA ___
 
Social History:
___
Family History:
Mother with "slow heartbeat,"
died at age ___. Father with MI in his ___.
 
Physical Exam:
Physical Exam on Admission
VS: 
2345 97.8 PO 189 / 84 L Lying 77 18 95 RA 
0041   166 / 76R Lying 73  
0042   189 / 73R Sitting 69 
0042   196 / 96R Standing 73 
0042   202 / 88 manual R Lying 
0042   188 / 78 manual L Lying 
0337 98.2 PO 198 / 78 76 16 93 RA 
___ 
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel sounds, no hepatomegaly, no renal 
bruits
EXTREMITIES: no clubbing, cyanosis, trace bilateral pitting 
edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: alert and oriented, cranial nerves II-XII intact, 
strength
___ in UEs and ___, heel to shin and finger to nose
intact, negative Romberg, no pronator drift. Gait is normal,
impaired heel to toe and heel walking, intact toe walking. 
PSYCH: normal mood and affect

Physical exam on discharge

 
Pertinent Results:
LABS THIS ADMISSION

Heme
___ 05:05PM BLOOD WBC-7.9 RBC-5.00 Hgb-13.8 Hct-41.9 MCV-84 
MCH-27.6 MCHC-32.9 RDW-15.1 RDWSD-45.5 Plt ___
___ 07:36AM BLOOD WBC-6.6 RBC-4.75 Hgb-13.3 Hct-39.6 MCV-83 
MCH-28.0 MCHC-33.6 RDW-14.9 RDWSD-45.2 Plt ___

Coag
___ 07:36AM BLOOD ___ PTT-30.3 ___

Chem
___ 05:05PM BLOOD Glucose-89 UreaN-16 Creat-0.8 Na-142 
K-4.1 Cl-101 HCO3-27 AnGap-14
___ 07:36AM BLOOD Glucose-93 UreaN-18 Creat-0.8 Na-143 
K-4.1 Cl-104 HCO3-28 AnGap-11
___ 05:05PM BLOOD Calcium-8.7 Phos-3.0 Mg-1.7
___ 07:36AM BLOOD Calcium-8.8 Phos-3.7 Mg-1.8

Cardiac
___ 05:05PM BLOOD cTropnT-<0.01

IMAGING AND OTHER STUDIES THIS ADMISSION

EKG: NSR at 68 bpm, normal axis, normal intervals, TWI in V2, no 
ST segment changes, no Q waves, no significant change compared 
to prior

Xray humerus:
IMPRESSION:  No acute fracture of the right humerus. 

CT head:
FINDINGS:  There is no evidence of acute intracranial 
hemorrhage, midline
shift, mass effect, or acute large vascular territorial infarct. 
A well-defined, chronic hypodensity in the left caudate 
isunchanged and consistent with a chronic lacunar infarct or 
dilated perivascular space.  There is mild prominence of the 
ventricles and sulci suggestive of involutional changes.  There 
are atherosclerotic calcifications in the
bilateral cavernous carotids.  There is no evidence of acute 
fracture.  There is a mucosal retention cyst in the right 
maxillary sinus.  The visualized portion of the remainder of the 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear. Patient is status post bilateral lens replacement.  
IMPRESSION:    No acute intracranial process. 

CT c-spine:
FINDINGS:  Alignment is normal.  No acute fractures are 
identified.There are mild to moderate multilevel degenerative 
changes with disc space
narrowing and small posterior disc osteophyte complexes, 
resulting in up to mild central canal narrowing, worst at C4-C5, 
C5-C6, and C6-C7.  Multilevel facet arthropathy and 
uncovertebral hypertrophy results in up to moderate neural 
foraminal narrowing, worst on the right at C4-C5 and C5-C6.  
There is no prevertebral edema.    The thyroid and included lung 
apices are grossly unremarkable. IMPRESSION:  No acute fracture 
or dislocation.  Degenerative changes, as
above. 

TTE
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global systolic function 
(LVEF>55%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Doppler parameters are indeterminate for left 
ventricular diastolic function. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The ascending aorta is mildly dilated. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The left 
ventricular inflow pattern suggests impaired relaxation. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion.  IMPRESSION: Mild symmetric 
left ventricular hypertrophy with preserved global and regional 
biventricular systolic function. Impaired LV relaxation 
suggested. Mildly dilated ascending aorta.

CTA Head and Neck
1. No evidence of acute intracranial abnormalities.  MRI would 
be more 
sensitive for an acute infarction, if clinically warranted. 
2. Unchanged chronic infarcts in the right cerebellar hemisphere 
and left 
caudate. 
3. Mild narrowing of the distal right M1 segment.  No evidence 
for high-grade 
intracranial stenosis. 
4. Mild atherosclerosis of proximal internal carotid arteries 
without stenosis 
by NASCET criteria. 

Renal duplex
No evidence of renal artery stenosis.  No concerning findings 
within the 
kidneys. 

RELEVANT PRIOR DATA

Stress ETT ___
INTERPRETATION: ___ yo woman with HTN was referred to evaluate a 
syncopal episode and continued lightheadedness. The patient
completed 12.25 minutes of a Gervino protocol representing an
average exercise tolerance for her age; ~ ___ METS. The exercise
test was stopped due to fatigue. No chest, back, neck or arm
discomforts were reported. No pre-syncopal symptoms were
reported. No significant ST segment changes were noted during 
the
procedure. The rhythm was sinus with occasional APBs and rare
atrial couplets. Rare VPBs were noted with one ventricular 
couplet and one ventricular triplet. No AV block was noted.
Resting systolic hypertension with an exaggerated systolic blood
pressure response noted with exercise. 
  
IMPRESSION: Average exercise tolerance. No anginal symptoms, 
pre-syncopal symptoms or ischemic ST segment changes. No AV 
block
was noted. Resting systolic hypertension with an exaggerated
systolic blood pressure response with exercise. 

Holter ___:
IMPRESSIONS: 
1. Sinus rhythm, normal intervals, no significant pauses. 
2. Small amount of atrial ectopy; low-grade ventricular ectopy. 
3. No arrhythmia during patient's complaints. 
 
Brief Hospital Course:
This is a ___ with HTN, anxiety, OA, prior vertigo, and prior 
syncope presenting with recurrent syncope in setting of marked 
hypertension noted on admission.

She was admitted to telemetry and had no events during her stay. 
Cardiac markers were negative, TTE unrevealing for cause of 
syncope but notable for LVH. Prior cardiac workup including 
holter and exercise stress test was unrevealing as well, except 
for exaggerated hypertensive response to exercise. Renal artery 
duplex was negative for stenosis. Her medication list was 
reviewed and was notable for polypharmacy with medications that 
can predispose to falls - these were discontinued. CTA of the 
head and neck showed a few small chronic appearing infarcts, 
overall consistent with pattern of longstanding uncontrolled 
hypertension. She was started on aspirin and statin for 
secondary prevention. BPs improved with resumption of home 
medication regimen, which was then adjusted for additional BP 
control. 

It was thought that her syncope/fall events were likely 
multifactorial in etiology, with impaired cerebral blood flow 
regulation in setting of severe hypertension, prior stroke which 
might predispose to fall, polypharmacy with medications that 
predispose to fall/syncope, advanced age.

She worked with ___ and did very well. She is being discharged 
home with ___ services and close PCP ___. I have arranged 
for neurology and cardiology followup as well.

# Syncope, fall: Broad ddx, and likely multifactorial in setting 
of hypertension, LVH, evidence of prior stroke, polypharmacy 
with medications that predispose to falls and syncope including 
Lasix, Ativan, Neurontin, Trazodone.
- F/u with PCP, ___
- Home ___ evaluation ordered via ___
- Consider LINQ
- Minimize medications with effect on intravascular volume and 
CNS/balance

# Hypertension: Could invoke secondary HTN workup in light of 
severity of HTN, though she was not on a very aggressive regimen 
and BPs have been high in the office in the past. TSH has been 
WNL on multiple checks. DDx includes renovascular disease, new 
medications, primary aldosteronism. Pheochromocytoma remains on 
the differential given flushing and paroxysmal hypertension, 
although would defer further w/u unless evaluation for more 
prevalent causes are not identified. Renal duplex negative here. 
BPs proved fairly responsive to Lisinopril monotherapy.
- Renal u/s with Doppler to evaluate for RAS
- Lisinopril 15 mg daily
- Stopped furosemide as it can promote falls and syncope in 
elderly
- Counselled on low potassium diet

# Small strokes: She had chronic appearing infarct identified on 
CT head and CTA head. These were thought most likely caused by 
severe longstanding hypertension. She was started on aspirin and 
atorvastatin and continued on antihypertensives as above. An 
inpatient MRI was deferred as it was thought unlikely to change 
management.
- Continue ASA, statin, and BP management
- Outpatient neurology evaluation, scheduled as below

# Depression/anxiety: Continued home duloxetine. Stopped Ativan 
and counseled on avoidance.

# Chronic back pain: Held gabapentin here, discontinued at 
discharge. She told me she was not taking it regularly anyway.

# Microscopic hematuria: Incidental finding on UA. Could be 
related to severe hypertension.
- Repeat UA as outpatient with better BP control and consider 
additional workup if remains positive

>30 minutes spent coordinating discharge home with services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO QHS 
2. Furosemide 20 mg PO DAILY 
3. LORazepam 0.5 mg PO QHS insomnia, anxiety 
4. Lisinopril 5 mg PO DAILY 
5. FLUoxetine 40 mg PO DAILY 
6. TraZODone 50 mg PO QHS insomnia 
7. Gabapentin 300 mg PO QAM 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Vitamin D 1000 UNIT PO DAILY 
10. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth every evening Disp 
#*30 Tablet Refills:*0 
3.  TraMADol 25 mg PO Q6H:PRN pain 
Use sparingly 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*14 Tablet Refills:*0 
4.  Lisinopril 15 mg PO DAILY 
RX *lisinopril 10 mg 1.5 tablet(s) by mouth daily Disp #*45 
Tablet Refills:*0 
5.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
6.  FLUoxetine 40 mg PO DAILY  
7.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Syncope
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with an episode of possible syncope. No 
obvious cause for this was found, but it was thought that there 
may have been more than one factor contributing
(1) Hypertension
(2) Small old appearing strokes identified on your head CT
(3) Lasix use
(4) Ativan use
(5) Abnormal heart rhythm - least likely

You were found to be very hypertensive. Your blood pressure 
medications were adjusted and you had somewhat better blood 
pressures. You will require gradual BP medication adjustment to 
get your blood pressures under total control, and you may 
require further evaluation for why your blood pressures are 
higher than normal.

I have made several follow up appointments for you, below.
 
Followup Instructions:
___